US07323475B2
a) 1-Bromo-6-butoxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
0.175 g of 6-butoxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester, 1 were allowed to react with phosphorous oxybromide analogously to Example D-46 b) to give 0.073 g of a white solid: Proton NMR (200 MHZ, chloroform-d): δ 11.84 (s, 1H), 8.13 (d, 1H), 7.60 (m, 1H), 7.42-7.35 (m, 1H), 4.48 (t, J=7 Hz, 2H), 4.15 (t, J=7 Hz, 2H), 1.95-1.75 (m, 4H), 1.65-1.40 (m, 4H), 1.05-0.95 (m, 6H).

reactant | 6-butoxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 0.175 g | C(CCC)OC(=O)C=1N=CC2=CC=C(C=C2C1O)OCCCC | C18H23NO4
reactant | phosphorous oxybromide | P(=O)(Br)(Br)Br | Br3OP
product | 1-Bromo-6-butoxy-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 0.073 g | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)OCCCC)Br | C18H22BrNO4
